US04107307
2-Benzyl-5-n-propyl-4-imidazolecarboxaldehyde
The general procedure of Example 26 is repeated but replacing the 2-benzyl-5-methyl-4-imidazolemethanol employed in that example with 2-benzyl-5-n-propyl-4-imidazolemethanol.

reactant | 2-benzyl-5-methyl-4-imidazolemethanol | C(C1=CC=CC=C1)C=1NC(=C(N1)CO)C | C12H14N2O
reactant | 2-benzyl-5-n-propyl-4-imidazolemethanol | C(C1=CC=CC=C1)C=1NC(=C(N1)CO)CCC | C14H18N2O
product | 2-Benzyl-5-n-propyl-4-imidazolecarboxaldehyde | C(C1=CC=CC=C1)C=1NC(=C(N1)C=O)CCC | C14H16N2O
